US07737152B2
N2-(pyridin-4-yl)-N6-(3,4,5-trimethoxyphenyl)pyrazine-2,6-diamine, CJS 705
Using Method R, with 200 mg of 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine (all amounts scaled accordingly) and 4-aminopyridine, 25 mg of title compound were obtained. Yield: 10%. 1H NMR (250 MHz, DMSO-d6) δ 3.64 (s, 3 H), 3.68 (s, 6 H), 6.83 (s, 2 H), 7.55 (d, 2 H, J=6.3 Hz), 7.62 (s, 1 H), 7.69 (s, 1 H), 8.25 (d, 2 H, J=6.3 Hz), 9.23 (s, 1 H), 9.66 (s, 1 H). 13C NMR (62.5 MHz, DMSO-d6) δ 55.66, 60.14, 97.52, 112.07, 122.57, 123.96, 132.67, 136.40, 147.39, 148.88, 149.83, 150.18, 152.93. m/z 354.2 [(M+H)+ calcd for C18H19N5O3 353.2].

reactant | 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine | 200 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)Cl | C13H14ClN3O3
reactant | 4-aminopyridine | NC1=CC=NC=C1 | C5H6N2
product | N2-(pyridin-4-yl)-N6-(3,4,5-trimethoxyphenyl)pyrazine-2,6-diamine | 25 mg, Yield: 10% | N1=CC=C(C=C1)NC1=NC(=CN=C1)NC1=CC(=C(C(=C1)OC)OC)OC | C18H19N5O3
